US03968116
5-Iodo-3-nitro-2-aminopyridine is reacted with 2,2-difluorobutyric anhydride to obtain 5-iodo-3-nitro-2-(2,2-difluorobutyramido)pyridine, which when hydrogenated in the presence of palladium on barium sulfate yields 6-iodo-1-hydroxy-2-(1,1-difluoro-n-propyl)-1H-imidazo(4,5-b)pyridine.

reactant | 5-Iodo-3-nitro-2-aminopyridine | IC=1C=C(C(=NC1)N)[N+](=O)[O-] | C5H4IN3O2
reactant | 2,2-difluorobutyric anhydride | FC(C(=O)OC(C(CC)(F)F)=O)(CC)F | C8H10F4O3
product | 5-iodo-3-nitro-2-(2,2-difluorobutyramido)pyridine | IC=1C=C(C(=NC1)NC(C(CC)(F)F)=O)[N+](=O)[O-] | C9H8F2IN3O3
